US07214673B2
(S)-10-[3-(2-Furan-3-yl-ethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene
Combine (S)-2-(2-furan-3-yl-ethyl)-piperazine (550 mg, 3.05 mmol), 2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine (700 mg, 3.05 mmol), toluene (6 mL) and DMSO (1.5 mL). Heat at 100° C. After 48 h, cool to ambient temperature and dilute with ethyl acetate. Filter the solids and dilute the filtrate with water. Extract with ethyl acetate. Wash the extracts with water and brine, dry over sodium sulfate, filter and concentrate the filtrate. Purify by silica gel chromatography using 2N ammonia in methanol-methylene chloride (2.5%) as the eluent to give 282 mg (24%) of the title compound: mass spectrum (ion spray): m/z=393 (M+1), 391 (M-1). HR-MS calculated for C22H25N4OS: 393.1749. Found 393.1742. HPLC: Symmetry C18 column (3.5 μm, 4.6×50 mm). Gradient 5% to 90% solvent B in 7 min. Solvent A was 0.1% (v/v) TFA in water and solvent B was acetonitrile. Retention time 5.4 min; 100% pure.

reactant | (S)-2-(2-furan-3-yl-ethyl)-piperazine | 3.05 mmol, 550 mg | O1C=C(C=C1)CC[C@@H]1NCCNC1 | C10H16N2O
reactant | 2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine | 3.05 mmol, 700 mg | CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N | C12H11N3S
reactant | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
reactant | DMSO | 1.5 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-10-[3-(2-Furan-3-yl-ethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 282 mg, 24% | O1C=C(C=C1)CC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2 | C22H24N4OS
